US08252935B2
b) 4-Methyl-2-{4′-trifluoromethyl-5-[1-(2-trifluoromethyl-benzenesulfonyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid
To a solution of compound 42a, 4-Methyl-2-{4′-trifluoromethyl-5-[1-(2-trifluoromethyl-benzenesulfonyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester (34.0 mg, 0.052 mmol) in EtOH (2.6 ml) was added 2M KOH (0.26 ml, 0.52 mmol). The reaction was heated to 78° C. for 1.5 hours, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, gave the product as a white lyophilate. (17.3 mg, 53%) 1HNMR(300 MHz, MeOD) δ ppm0.79-0.87 (m, 6 H) 1.41 (dt,J=13.28, 6.74 Hz, 1 H) 1.53-1.69 (m, 3 H) 1.79 (dd, J=5.84, 2.83 Hz, 1 H) 1.84-1.96 (m, 2 H) 2.71-2.84 (m, 3 H) 3.64 (t, J=7.72 Hz, 1 H) 3.79 (d, J=6.03 Hz, 2 H) 7.18 (s, 1H) 7.38 (d, J=16.58 Hz, 2 H) 7.62-7.76 (m, 6 H) 7.85-7.90 (m, 1 H) 7.99-8.04 (m, 1 H) Calcd for C31H31F6NO4S (M+H) 627.64, Found 628.3.

reactant | 4-Methyl-2-{4′-trifluoromethyl-5-[1-(2-trifluoromethyl-benzenesulfonyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester | 0.052 mmol, 34.0 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C33H35F6NO4S
reactant | KOH | 0.52 mmol, 2M, 0.26 ml | [OH-].[K+]
solvent | EtOH | 2.6 ml | CCO | C2H6O
product | 4-Methyl-2-{4′-trifluoromethyl-5-[1-(2-trifluoromethyl-benzenesulfonyl)-piperidin-3-yl]-biphenyl-3-yl}-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C | C31H31F6NO4S
